US04353919
(a) O-Ethyl (3-Chlorophenyl)-thiocarbamate
A mixture of 45.5 gm (0.268 mol) of 3-chlorophenylisothiocyanate, 200 ml of anhydrous ethanol and 1 ml of quinoline was refluxed for 48 hours. Then, the reaction mixture was evaporated in an aspirator vacuum, the residue was taken up in ether, and the resulting solution was washed first with 5% hydrochloric acid and then thoroughly with water, dried, and evaporated again. After recrystallization from methanol/water, 49.5 gm (86% of theory) of colorless crystals with a melting point of 78°-79° C. were obtained.

reactant | 3-chlorophenylisothiocyanate | 0.268 mol, 45.5 gm | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | quinoline | 1 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | O-Ethyl (3-Chlorophenyl)-thiocarbamate | ClC=1C=C(C=CC1)NC(OCC)=S | C9H10ClNOS
